US07615651B2
Preparation of Intermediate (4-Bromo-2-chloro-benzyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-3c)
(4-bromo-2-chloro-benzyl)-(3-methyl-butyl)-amine (I-3b: 12.7 g, 43.7 mmol), dissolved in ethyl acetate (100 mL), was combined with a saturated aqueous sodium bicarbonate solution (200 mL)) and di-tert-butyl-dicarbonate (14.3 g, 65.5 mmol). After stirring at 50° C. for 2 hours, the reaction mixture was cooled to room temperature, diluted with water and transferred to a separatory funnel. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated. The product was purified column chromatography using flash silica gel and eluting with 10% ethyl acetate in heptane to provide the title compound (I-3c).

reactant | (4-bromo-2-chloro-benzyl)-(3-methyl-butyl)-amine | 43.7 mmol, 12.7 g | BrC1=CC(=C(CNCCC(C)C)C=C1)Cl | C12H17BrClN
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl-dicarbonate | 65.5 mmol, 14.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (4-Bromo-2-chloro-benzyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC(C)C)CC1=C(C=C(C=C1)Br)Cl)=O | C17H25BrClNO2
